US07601722B2
In an analogous manner to general procedure V, 1-[2-(2-bromoethoxy)ethyl]-3-(2,4-difluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide (0.53 g, 1.2 mmol) was treated with 33% dimethylamine in ethanol to give 2-{2-[3-(2,4-difluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]ethoxy}-N,N-dimethylethanamine which was treated with 1N hydrochloric acid in ether to give its hydrochloride salt as a white solid (0.157 g, 30%). MS (ES) m/z 397.9 ([M+H]+). HPLC retention time: 7.1 min.

reactant | 1-[2-(2-bromoethoxy)ethyl]-3-(2,4-difluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide | 1.2 mmol, 0.53 g | BrCCOCCN1S(N(C2=C1C=CC=C2)C2=C(C=C(C=C2)F)F)(=O)=O | C16H15BrF2N2O3S
reactant | dimethylamine | CNC | C2H7N
solvent | ethanol | C(C)O | C2H6O
product | 2-{2-[3-(2,4-difluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]ethoxy}-N,N-dimethylethanamine | FC1=C(C=CC(=C1)F)N1S(N(C2=C1C=CC=C2)CCOCCN(C)C)(=O)=O | C18H21F2N3O3S
